US09034866B2
Methyl 10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate (4 g) was reacted with ethyl formate similarly to as described in example 8 with non-critical modifications to afford 3.2 g (74%) of methyl 10-bromo-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate as a yellow solid.

reactant | Methyl 10-bromo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 4 g | BrC=1C=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1 | C15H13BrN2O2
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | methyl 10-bromo-3-formyl-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 3.2 g, 74% | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C=O)C1 | C16H13BrN2O3
